US08012986B2
2-(3-Bromo-phenyl)-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine (example A.1) (1.2 g, 4.0 mmol) and commercially available 3-bromo-benzene-boronic acid (0.88 g, 4.38 mmol) according to the general procedure IIb. Obtained as a white solid (0.73 g, 43%). MS (EI) 419.9 [(M)+]; mp 124° C.

reactant | 2-chloro-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine | 4.0 mmol, 1.2 g | ClC1=NC(=CC(=N1)C=1SC(=CC1)Cl)C(F)(F)F | C9H3Cl2F3N2S
reactant | 3-bromo-benzene-boronic acid | 4.38 mmol, 0.88 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C=1SC(=CC1)Cl)C(F)(F)F | C15H7BrClF3N2S
